US04472464
Preparation of (CH3O)3Si(CH2)3SCH2CH2CH2NHCONH2
70 grams of mercaptopropyltrimethoxy silane and 35.5 gms. of allylurea were weighed into a flask equipped as in Example 1. The contents of the flask were heated to about 90° C. and 0.3 gm. of Vazo 64 was added. The temperature indicated an exotherm to about 145° C. which was controlled back down to about 100° C. for a total of 61/2 hours and it was then cooled. Titration of a sample showed about 71% reaction of the mercaptan. The material was filtered. The proton NMR analysis showed a structure consistent with the title compound. There was unreacted allylurea present at less than 25%.

reactant | mercaptopropyltrimethoxy silane | 70 grams | SCCC[Si](OC)(OC)OC | C6H16O3SSi
reactant | allylurea | C(C=C)NC(=O)N | C4H8N2O
reactant | Vazo 64 | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (CH3O)3Si(CH2)3SCH2CH2CH2NHCONH2 | [Si](OC)(OC)(OC)CCCSCCCNC(=O)N | C10H24N2O4SSi
